US04304774
1-(1H-Tetrazol-5-ylmethyl)-1H-tetrazol-5-thiol preparation
A solution of 6.0 g. (42.5 mmole) of 1-cyanomethyl-1H-tetrazol-5-thiol and 10.0 g. (6.3 mmole) of tetramethylguanidinium azide in 90 ml. of dioxane was heated at the reflux temperature for 3 hours. After cooling, the reaction mixture was evaporated to dryness in vacuo and the residue dissolved in ethyl acetate:water, 1:1. The ethyl acetate layer was separated, and the pH of the aqueous layer was adjusted to pH 1.8 with 20% hydrochloric acid. The acidified aqueous layer was then extracted 3 times with 75 ml. portions of ethyl acetate, and the extracts were combined. The extract was washed with 5% hydrochloric acid, with brine, was dried over sodium sulfate, and then evaporated in vacuo to dryness. The red oil obtained as a residue crystallized on seeding. The crystals were washed with ethyl acetate and with diethyl ether and were dried. There were obtained 3.7 g. of the bis-tetrazolmethyl thiol melting at about 173° C. to about 175° C. The filtrate from the first crop was evaporated to an oil and after seeding the oil, 0.3 g. of a second crop crystalline product were obtained. A third crop of 0.3 g. was obtained in the same manner. Total yield of product was 4.3 g. (55% yield).

reactant | 1-cyanomethyl-1H-tetrazol-5-thiol | 42.5 mmole | C(#N)CN1N=NN=C1S | C3H3N5S
reactant | tetramethylguanidinium azide | 6.3 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(1H-Tetrazol-5-ylmethyl)-1H-tetrazol-5-thiol | 55% yield | N1N=NN=C1CN1N=NN=C1S | C3H4N8S
